US07074809B2
Piperidine-1,2-dicarboxylic acid-1-tert-butyl ester
A solution of DL-pipecolinic acid (13 g, 100 mmol), potassium carbonate (55.2 g, 400 mmol), di-tert-butyl dicarbonate (28.4 g, 130 mmol) in acetone (30 mL) and water (100 mL) was stirred at room temperature overnight. The reaction mixture was brought to pH 3 using hydrochloric acid (1 N aqueous) and then extracted with ethyl acetate (350 mL). The organic phase was separated, sequentially washed with water (200 mL) and brine (200 mL), dried (sodium sulfate), filtered and concentrated in vacuo. The isolated solid was triturated with hexanes to yield 22.7 g (99%) of the title compound as a white solid. 1H-NMR (CDCl3), δ(ppm): 9.3 (bs, 1H), 4.84 (bd, 1H), 3.94 (m, 1H), 2.93 (m, 1H), 2.22 (m, 1H), 1.67 (m, 3H), 1.45 (m, 11H).

reactant | DL-pipecolinic acid | 100 mmol, 13 g | C1CCNC(C1)C(=O)O | C6H11NO2
reactant | potassium carbonate | 400 mmol, 55.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | di-tert-butyl dicarbonate | 130 mmol, 28.4 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | acetone | 30 mL | CC(=O)C | C3H6O
solvent | water | 100 mL | O | H2O
product | Piperidine-1,2-dicarboxylic acid-1-tert-butyl ester | 22.7 g, 99% | C(C)(C)(C)OC(=O)N1C(CCCC1)C(=O)O | C11H19NO4
